US04062862
(a) To 6.1 g of m-chloroallylbenzene was added 85 ml of chloroform solution containing perbenzoic acid and the mixture was allowed to stand at room temperature overnight. This solution was washed with sodium hydroxide solution, 20% Mohr's salt solution and then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was distilled under reduced pressure to give 2.2 g (yield 33%) of m-chloroallylbenzene oxide having a boiling point of 117° C/7 mmHg.

reactant | m-chloroallylbenzene | 6.1 g | ClC=CCC=1C=CC=CC1 | C9H9Cl
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | m-chloroallylbenzene oxide | 2.2 g, yield 33% | ClC=CCC=1C2C(C=CC1)O2 | C9H9ClO
